US09056859B2
A mixture of 5-bromo-4-(2-hydroxyethyl)-2-benzofuran-1(3H)-one (0.460 g, 1.78 mmol), tributyl(vinyl)tin (0.676 g, 2.13 mmol), LiCl (0.224 g, 5.33 mmol) and Pd (PPh3)4 (0.10 g, 0.087 mmol) in toluene (50 mL) was heated at 100-110° C. under N2 overnight; TLC indicated that reaction had gone to completion and to the solution was poured EtOAc (100 mL) and washed with brine, water, dried over Na2SO4, filtered and concentrated to dryness. The residue was then absorbed into silica gel and separated over silica column to give 5-ethenyl-4-(2-hydroxyethyl)-2-benzofuran-1(3H)-one. 1H-NMR (400 MHz, CDCl3) δ ppm 7.74 (d, J=7.8 Hz, 1H), 7.67 (d, J=7.8 Hz, 1H), 7.00-7.07 (m, 1H), 5.79-5.84 (m, 1H), 5.50-5.53 (m, 1H), 5.35 (s, 2H), 3.86 (t, J=6.3 Hz, 2H) 2.93 (t, J=6.3 Hz, 2H).

reactant | 5-bromo-4-(2-hydroxyethyl)-2-benzofuran-1(3H)-one | 1.78 mmol, 0.460 g | BrC1=C(C2=C(C(OC2)=O)C=C1)CCO | C10H9BrO3
reactant | tributyl(vinyl)tin | 2.13 mmol, 0.676 g | C(CCC)[Sn](C=C)(CCCC)CCCC
reactant | LiCl | 5.33 mmol, 0.224 g | [Li+].[Cl-]
reactant | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd (PPh3)4 | 0.087 mmol, 0.10 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-ethenyl-4-(2-hydroxyethyl)-2-benzofuran-1(3H)-one | C(=C)C1=C(C2=C(C(OC2)=O)C=C1)CCO | C12H12O3
